US04115059
2,4,5-Trichlorobenzenesulfonyl fluoride was synthesized from potassium fluoride and 2,4,5-trichlorobenzenesulfonyl chloride using the procedure described in Example 1. A product with mp 80°-83° C was obtained in 99% yield. The chemical analysis, NMR and IR spectra were in agreement with the assigned structure.

reactant | potassium fluoride | [F-].[K+]
reactant | 2,4,5-trichlorobenzenesulfonyl chloride | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
product | 2,4,5-Trichlorobenzenesulfonyl fluoride | 99% yield | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)F | C6H2Cl3FO2S
